US06534506B2
Step A: Preparation of 2-chloro-5-[(methanesulfonyl)-oxy]toluene
To a solution of 4-chloro-3-methylphenol (35.0 g, 277 mmol) in 100 mL of methylene chloride at 0° C. was added triethylamine (77.0 mL, 554 mmol), followed by methanesulfonyl chloride (32.2 mL, 416 mmol). The reaction was allowed to warm to room temperature for 1 hr. The solution was poured into EtOAc, washed with H2O and brine, dried (Na2SO4), filtered, and concentrated in vacuo. The resulting yellow solid product was used without further purification.

reactant | 4-chloro-3-methylphenol | 277 mmol, 35.0 g | ClC1=C(C=C(C=C1)O)C | C7H7ClO
reactant | triethylamine | 554 mmol, 77.0 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 416 mmol, 32.2 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-[(methanesulfonyl)-oxy]toluene | ClC1=C(C=C(C=C1)OS(=O)(=O)C)C | C8H9ClO3S
